US07452885B2
Preparation of N-(3-Ethynylphenyl)-2-methoxyacetamide
To a cooled solution of 3-ethynylphenylamine (7.02 g, 60 mmol) in methylene chloride is added a solution of methoxyacetyl chloride (7.8 g, 72 mmol) in methylene chloride (10 mL) dropwise over a period of 30 min at 0° C. After addition, the reaction mixture is allowed to warm-up to room temperature and stirred overnight. The solvent is evaporated and the residue is partitioned between water and ethyl acetate. The organic phase is washed with saturated NaHCO3, H2O, dried (MgSO4) and concentrated to afford the title compound as a colorless oil 10.2 g (90%). 1HNMR (CDCl3): δ (ppm) 3.04 (s, 1H,), 3.48 (s, 3H), 3.98 (s, 2H), 7.24 (m, 2H), 7.61 (d, 1H), 7.66 (s, 1H), 8.21 (s, b, 1H).

reactant | 3-ethynylphenylamine | 60 mmol, 7.02 g | C(#C)C=1C=C(C=CC1)N | C8H7N
reactant | methoxyacetyl chloride | 72 mmol, 7.8 g | COCC(=O)Cl | C3H5ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Ethynylphenyl)-2-methoxyacetamide | 10.2 g, 90% | C(#C)C=1C=C(C=CC1)NC(COC)=O | C11H11NO2
